US08975400B2
3-fluoro-4-((6-(trifluoromethyl)pyridin-2-yl)oxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3-fluoro-4-hydroxybenzaldehyde and 2-chloro-6-(trifluoromethyl)pyridine.

reactant | 3-fluoro-4-hydroxybenzaldehyde | FC=1C=C(C=O)C=CC1O | C7H5FO2
reactant | 2-chloro-6-(trifluoromethyl)pyridine | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
product | 3-fluoro-4-((6-(trifluoromethyl)pyridin-2-yl)oxy)benzaldehyde | FC=1C=C(C=O)C=CC1OC1=NC(=CC=C1)C(F)(F)F | C13H7F4NO2
